US08232267B2
2-methoxyethylamine (0.750 g, 10 mmol) was dissolved in 50 ml dichloromethane in a 100-ml round-bottom flask, and cooled in an ice-water bath. Bromoacetyl bromide (1 g, 5 mmol) was added dropwise via syringe, and the reaction was continued overnight. The reaction mixture was added to 260 ml ethyl acetate and 2.5 ml dichloromethane, and the solution was washed with two portions each of water and of saturated NaCl(aq). The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed by distillation to leave 0.64 g of 2-methoxyethylbromoacetamide (66% yield) as a yellow oil.

reactant | 2-methoxyethylamine | 10 mmol, 0.750 g | COCCN | C3H9NO
reactant | Bromoacetyl bromide | 5 mmol, 1 g | BrCC(=O)Br | C2H2Br2O
reactant | ethyl acetate | 260 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
product | 2-methoxyethylbromoacetamide | 0.64 g, 66% yield | COCCC(C(=O)N)Br | C5H10BrNO2
